US09382197B2
A mixture of ethyl 4-isobutyrylbenzoate (0.56 g, 2.54 mmol), hydroxylamine hydrochloride (1.06 g, 15.2 mmol), and sodium acetate (1.25 g, 15.2 mmol) in ethanol (36 mL) was heated to 36° C. for 2 h. The reaction was then concentrated and the residue was dissolved in EtOAc (200 mL). The organic phase was washed with water (2×20 mL), brine, dried (MgSO4), and concentrated to give crude ethyl 4-(1-(hydroxyimino)-2-methylpropyl)benzoate as a slight-yellow solid. LC-MS: (FA) ES+ 236.

reactant | ethyl 4-isobutyrylbenzoate | 2.54 mmol, 0.56 g | C(C(C)C)(=O)C1=CC=C(C(=O)OCC)C=C1 | C13H16O3
reactant | hydroxylamine hydrochloride | 15.2 mmol, 1.06 g | Cl.NO
reactant | sodium acetate | 15.2 mmol, 1.25 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 36 mL | C(C)O | C2H6O
product | ethyl 4-(1-(hydroxyimino)-2-methylpropyl)benzoate | ON=C(C(C)C)C1=CC=C(C(=O)OCC)C=C1 | C13H17NO3
